US08486986B2
a) Preparation of 3-chloro-2-((E)-nitropropenyl)thiophene
In a sulfonation flask, a mixture containing 11.7 g (0.08 mol) 3-chlorothiophene-2-carbaldehyde, 48 g (0.64 mol) nitroethane, 15.4 g (0.2 mol) ammoniumacetate and 160 ml acetic acid is heated at 90° C. for 5 hours. After cooling ethylacetate is added and the organic phase washed three times with water. The organic phase is dried over sodium sulphate and after filtration the organic solvent is distilled off in a water jet vacuum. The residue is purified by column chromatography over silicagel (eluent: ethylacetate/heptane 1:5). Yield: 10.8 g (67% of theory) of a colourless oil (1H-NMR: 2.57/s/3H, 7.12/d/1H, 7.62/d/1H, 8.45/s/1H).

reactant | 3-chlorothiophene-2-carbaldehyde | 0.08 mol, 11.7 g | ClC1=C(SC=C1)C=O | C5H3ClOS
reactant | nitroethane | 0.64 mol, 48 g | [N+](=O)([O-])CC | C2H5NO2
reactant | ammoniumacetate | 0.2 mol, 15.4 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 3-chloro-2-((E)-nitropropenyl)thiophene | ClC1=C(SC=C1)\C=C\C[N+](=O)[O-] | C7H6ClNO2S
